US04032323
A solution of ethyl acetoacetate (250 g.) and concentrated sulphuric acid (10 ml.) in isopropanol (1500 ml.) was heated at reflux for 3 hours. The solvent was removed by distillation, the residue was neutralised by treatment with barium carbonate, filtered and distilled under reduced pressure to give isopropyl acetoacetate (139 g.), b.p. 79°-82° C./20 mm Hg, in the form of a colourless liquid.

reactant | ethyl acetoacetate | 250 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropanol | 1500 ml | C(C)(C)O | C3H8O
product | isopropyl acetoacetate | 139 g | C(CC(=O)C)(=O)OC(C)C | C7H12O3
